US07538111B2
N,1-dimethyl-N-[1-(phenylmethyl)-4-piperidinyl]-4-piperidinamine
In operating analogously to preparation LXXI, starting with N-methyl-4-piperidinone and 1-benzyl-4-(methylamino)piperidine, the product sought after is obtained as a yellow oil (yield=66%).

reactant | N-methyl-4-piperidinone | CN1CCC(CC1)=O | C6H11NO
reactant | 1-benzyl-4-(methylamino)piperidine | C(C1=CC=CC=C1)N1CCC(CC1)NC | C13H20N2
product | N,1-dimethyl-N-[1-(phenylmethyl)-4-piperidinyl]-4-piperidinamine | yield=66% | CN(C1CCN(CC1)C)C1CCN(CC1)CC1=CC=CC=C1 | C19H31N3
